simulator lang=spectre
global 0
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=tt
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=stat_noise
simulator lang=spectre insensitive=no
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=tt_bbmvar
simulator lang=spectre insensitive=no
include "cells.scs"
parameters vddval=1.2
VDD (vdd 0) vsource dc=vddval
simulatorOptions options reltol=1e-5 vabstol=1e-7 iabstol=1e-13 temp=27
include "lc_core_experiment.scs"
include "cap_bank_experiment.scs"
XL (vp vn vdd 0) tx_lc_core_experiment tank_r=5 tank_c=190f core_w=40u
VB0 (b0 0) vsource dc=0
VB1 (b1 0) vsource dc=1.2
VB2 (b2 0) vsource dc=1.2
VB3 (b3 0) vsource dc=1.2
VB4 (b4 0) vsource dc=1.2
VB5 (b5 0) vsource dc=1.2
VB6 (b6 0) vsource dc=1.2
VB7 (b7 0) vsource dc=1.2
XBvp (vp b0 b1 b2 b3 b4 b5 b6 b7 0) tx_cap_bank_experiment unit_c=5.7f
XBvn (vn b0 b1 b2 b3 b4 b5 b6 b7 0) tx_cap_bank_experiment unit_c=5.7f
VC (ctrl 0) vsource dc=1.0
CVP (vp ctrl) nmoscap lr=2u wr=3u mr=1
CVN (vn ctrl) nmoscap lr=2u wr=3u mr=1
ic vp=1.20001 vn=1.2
tran tran stop=200n errpreset=conservative maxstep=5p
save vp vn XL.tail VDD:p
saveOptions options save=selected
